* Testcase 000453 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources
VVDD VDD 0 1.8
VLABEL_NET_0 LABEL_NET_0 0 DC 0.9 AC 0.5
VLABEL_NET_1 LABEL_NET_1 0 DC 0.9 AC 1
VLABEL_NET_2 LABEL_NET_2 0 0.9
VLABEL_NET_3 LABEL_NET_3 0 0.9

* Circuit
XM1 N1 N2 LABEL_NET_0 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM2 N2 N1 LABEL_NET_1 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
R1 N3 N4 10k
XM3 N6 LABEL_NET_2 VDD VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
R2 N0 LABEL_NET_3 10k
R3 N4 N5 10k
C1 N1 N5 1p
C2 N2 N3 1p
L1 N2 N6 10n
D1 N3 N0 DIDEAL
D2 N5 N0 DIDEAL
L2 N1 N6 10n

.control
set filetype=ascii

op
let power_dc = abs(i(VVDD)) * 1.8
print power_dc

ac dec 100 1 10g
let gain_N2 = db(vm(N2))
let gain_N6 = db(vm(N6))
let gain_N1 = db(vm(N1))
meas ac max_gain_N2 MAX gain_N2
meas ac max_gain_N6 MAX gain_N6
meas ac max_gain_N1 MAX gain_N1

* Use first probe node for standard metrics
let gain_db = db(vm(N2))
meas ac dc_gain_db FIND gain_db AT=1
meas ac ugbw WHEN gain_db=0 CROSS=1
let vout_dc = v(N2)

print dc_gain_db ugbw vout_dc gain_N2 gain_N6 gain_N1

quit
.endc

.end
